US03992377
For example, p-nitrobenzyl 7-amino-3-methylthio-3-cephem-4-carboxylate is reacted with phenylacetyl chloride in cold aqueous acetone containing an excess of sodium bicarbonate to provide the acylated compound p-nitrobenzyl 7-phenylacetamido-3-methylthio-3-cephem-4-carboxylate. Similarly, diphenylmethyl 7-amino-3-(1-methyl-1H-tetrazole-5-ylthio)-3-cephem-4-carboxylate is reacted with 2-thienylacetyl chloride in aqueous acetone at a temperature of about 5° to about 10° C. in the presence of sodium bicarbonate to provide the 7-[2-(2-thienyl)acetamido]ester.

reactant | p-nitrobenzyl 7-amino-3-methylthio-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C)C(=S)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C15H15N3O4S2
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | p-nitrobenzyl 7-phenylacetamido-3-methylthio-3-cephem-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O5S2
